US05393752
6-(4-methylpiperazin-1-yl)pyrido(2,3-b)benzo-1,4-thiazepine (formula I: X=S, R1 =R2 =H, N1 =benzene, N2 =pyridine with N in position d)
3 g 5H, 6H-pyrido(2,3-b)benzo-1,4-thiazepine-6-one are refluxed with an excess of phosphorous oxychloride and 5 drops of N,N-dimethylaniline for 20 hours. The solution is taken up with anhydrous toluene and evaporated to dryness. The residue is taken up with 5 ml anhydrous toluene and an excess of N-methylpiperazine is added. This mixture is then refluxed for 2-4 hours. Once the reaction is terminated, the solvent is eliminated. The colored mass is taken up with chloroform and washed two times with water. The chloroformic phase is decolored with carbon and dried. After concentration into a small volume, the mixture is passed through a silica column (Woelm act III). The eluent phase is acetone. Once separated, the different phases containing the above mentioned product are evaporated to dryness. The residue is recrystallized in petrolein 100/140. The melting point is 134° C.

reactant | 6H-pyrido(2,3-b)benzo-1,4-thiazepine-6-one | N1=CC=CC2=C1SC1=C(C(N2)=O)C=CC=C1 | C12H8N2OS
reactant | phosphorous oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | N,N-dimethylaniline | 5 drops | CN(C1=CC=CC=C1)C | C8H11N
product | 6-(4-methylpiperazin-1-yl)pyrido(2,3-b)benzo-1,4-thiazepine | CN1CCN(CC1)C1=NC2=C(SC3=C1C=CC=C3)N=CC=C2 | C17H18N4S
